US08835472B2
N-[2-(4-Hydroxy-phenyl)-1-methyl-ethyl]-acetamide
1.88 g (10.0 mmol) 4-(2-amino-propyl)-phenol*HCl and 1.80 g (21.0 mmol) NaHCO3 are combined in 50 mL water and cooled down to 0° C. 0.95 mL (10.0 mmol) acetic anhydride, dissolved in 50 mL ACN, are dropped into the mixture over a period of 1.5 h. The reaction mixture is stirred at r.t. for 72 h. The ACN is evaporated in vacuo and the aq. residue is acidified with HCl (1N). The mixture is extracted several times with EtOAc. The organic layers are combined, dried with Na2SO4 and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, DCM/MeOH 95/5).

reactant | 4-(2-amino-propyl)-phenol | 10.0 mmol, 1.88 g | NC(CC1=CC=C(C=C1)O)C | C9H13NO
reactant | NaHCO3 | 21.0 mmol, 1.80 g | C(=O)(O)[O-].[Na+]
reactant | acetic anhydride | 10.0 mmol, 0.95 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 mL | O | H2O
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | N-[2-(4-Hydroxy-phenyl)-1-methyl-ethyl]-acetamide | OC1=CC=C(C=C1)CC(C)NC(C)=O | C11H15NO2
